US05726172
The 2,4-dimethyl-3-hydroxymethylpyridine (19.2 g, 140 mmol) was dissolved in CH2Cl2 (800 mL) and cooled under nitrogen to 0° C. and thionyl chloride (125 mL) was slowly added and the reaction was stirred for 18 hours. The solvent was removed under reduced pressure and the residue was partitioned between CH2Cl2 and saturated aqueous sodium bicarbonate. The organic layer was dried with MgSO4, filtered and the solvent removed under reduced pressure to give the desired 2,4-dimethyl-3-chloromethylpyridine.

reactant | 2,4-dimethyl-3-hydroxymethylpyridine | 140 mmol, 19.2 g | CC1=NC=CC(=C1CO)C | C8H11NO
reactant | thionyl chloride | 125 mL | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 800 mL | C(Cl)Cl | CH2Cl2
product | 2,4-dimethyl-3-chloromethylpyridine | CC1=NC=CC(=C1CCl)C | C8H10ClN
